US07968570B2
4-Bromo-2-chloro-6-methylbenzoic acid methyl ester
4-Bromo-2-chloro-6-methylbenzoic acid (1.10 g, 4.41 mmol) was dissolved in ethyl acetate (15 mL). A solution of diazomethane in diethyl ether was added until the yellow colour persisted. After fifteen minutes the reaction was quenched with acetic acid. After one hour, the mixture was washed with saturated sodium bicarbonate and brine, dried over magnesium sulfate, filtered and concentrated to provide the title compound as a yellow oil (1.31 g, 113%). 1H NMR CDCl3: 7.43 (s, 1H), 7.31 (s, 1H), 3.94 (s, 3H), 2.33 (s, 3H).

reactant | 4-Bromo-2-chloro-6-methylbenzoic acid | 4.41 mmol, 1.10 g | BrC1=CC(=C(C(=O)O)C(=C1)C)Cl | C8H6BrClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Bromo-2-chloro-6-methylbenzoic acid methyl ester | 1.31 g, 113% | COC(C1=C(C=C(C=C1C)Br)Cl)=O | C9H8BrClO2
